US04886810
A mixture of 7-(3-amino-3-methyl-1-pyrrolidinyl)-1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (150 mg) and 28% aqueous ammonia (15 ml) was heated at 100° C. for 48 hours in a sealed tube. The reaction mixture was evaporated to dryness under reduced pressure and water was added to the residue. The resulting crystals were treated in the same manner as described in Example 10 (1) to give 5-amino7-(3-amino-3-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (93 mg), m.p. 271°-273° C (decomp.).

reactant | 7-(3-amino-3-methyl-1-pyrrolidinyl)-1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 150 mg | NC1(CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F)F)C | C18H18F3N3O3
reactant | ammonia | 15 ml | N | H3N
product | 5-amino7-(3-amino-3-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 93 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)(C)N)F)C1CC1)C(=O)O)=O | C18H20F2N4O3
